US05464865
To a solution of 2-mercaptothiazole-4-carboxylic acid ethyl ester (Zhelyazkov, L.; Todorova, N.; Manolova, P. Tr. Nauchnoizsled. Khim.-Farm. Inst., 9, 59-67 (1974); Chem. Abstr., 83, 58706 q) (3.0 g) in DMF (20 ml) is added sodium hydride (0.70 g of 60% dispersion). After 10 min, 1-bromooctane (3.0 ml) is added, and the mixture is stirred at 60° for 30 min. The mixture is poured into water and extracted with ether, and the extracts are dried, filtered, and concentrated. The residue is recrystallized from hexane to provide 2-(octylthio)thiazole-4-carboxylic acid ethyl ester as a colorless solid (3.7 g, 78%). This material is reduced in the usual fashion with lithium aluminum hydride in THF, providing 2-(octylthio)thiazole-4-methanol (2.12 g, 67%) as a colorless oil after chromatography. This is combined with DDQ (1.8 g) in 1,4-dioxane (25 ml) and stirred for 48 hr at room temperature. The reaction mixture is filtered, and the filtrate is concentrated and chromatographed with dichloromethane to provide 2-(octylthio)thiazole-4-carboxaldehyde as a tan solid (1.67 g, 81%).

reactant | 2-mercaptothiazole-4-carboxylic acid ethyl ester | 3.0 g | C(C)OC(=O)C=1N=C(SC1)S | C6H7NO2S2
reactant | sodium hydride | 0.70 g | [H-].[Na+]
reactant | 1-bromooctane | 3.0 ml | BrCCCCCCCC | C8H17Br
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(octylthio)thiazole-4-carboxylic acid ethyl ester | 3.7 g, 78% | C(C)OC(=O)C=1N=C(SC1)SCCCCCCCC | C14H23NO2S2
